**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 6
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/common/model_files/dut.cir

** Start testbenches

********************* dut testbench 24_0 *********************
v_gs_ac_24_0 g_24_0 g_ac_24_0 DC 0 AC 1
v_gs_24_0 g_ac_24_0 0 0.0
e_ds_24_0 d_24_0 0 v_sweep 0 1
v_s_24_0 s_24_0 0 0
v_bs_24_0 b_24_0 0 0.0
x_24_0 d_24_0 g_24_0 s_24_0 b_24_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut a0 = 2.4712847648248135
alterparam dut a1 = 0.07708551911142085
alterparam dut a2 = 0.33056653736888353
alterparam dut acde = 0.8809694221356944
alterparam dut ags = 0.8491142410655106
alterparam dut bin_lketa = 0.11711352069350099
alterparam dut bin_pketa = 0.4666023012237548
alterparam dut bin_ppclm = 0.7055783107717557
alterparam dut bin_prdsw = 0.6643024571347951
alterparam dut bin_pvsat = 0.35653762826830826
alterparam dut bin_wk3 = 0.38010633024149365
alterparam dut bin_wk3b = 0.8966485868076394
alterparam dut bin_wketa = 0.5617273106438003
alterparam dut cf = 5.0375986172646314e-11
alterparam dut cgdl = 3.3548719078370637e-10
alterparam dut cgdo = 1.030268148011117e-10
alterparam dut ckappas = 8.267673829277
alterparam dut clc = 2.0173825762158712e-07
alterparam dut cle = 0.34711912322435423
alterparam dut dlc = 2.5882877176617988e-08
alterparam dut drout = 0.10726091239145435
alterparam dut dsub = 0.5463847131481888
alterparam dut dvt0 = 8.446611703741414
alterparam dut dvt0w = 7.292797265753132
alterparam dut dvt1 = 0.11009286351381686
alterparam dut dvt1w = 1236526.0004672422
alterparam dut dvt2 = 1*-0.019704896909731692
alterparam dut dvt2w = 1*-0.03919915335279586
alterparam dut dwg = 5.155457067599515e-08
alterparam dut eta0 = 0.36930692518757813
alterparam dut etab = 1*-0.22047510363049322
alterparam dut k1 = 0.500464764368719
alterparam dut k2 = 0.03394075117256101
alterparam dut k3 = 1*-24.24687552025999
alterparam dut k3b = 2.0226253823545335
alterparam dut keta = 1*-0.014232759899817093
alterparam dut lint = 1*-1.9421876985095414e-08
alterparam dut ll = 1*-8.5680194926402875e-16
alterparam dut lwl = 6.820231295521126e-20
alterparam dut moin = 18.71437122916401
alterparam dut ndep = 4.0654802341564145e+18
alterparam dut nfactor = 1.5501978386575055
alterparam dut ngate = 1.2979536429066952e+23
alterparam dut noff = 0.10468410477390325
alterparam dut pclm = 0.0005109159010217724
alterparam dut pdiblc1 = 0.0012792128365189896
alterparam dut pdiblc2 = 0.0002014531335340457
alterparam dut pdiblcb = 1*-0.805874003763839
alterparam dut pvag = 0.9761901015640411
alterparam dut rdsw = 423.60951557117465
alterparam dut toxp = 2.085655169921801e-09
alterparam dut u0 = 697.2424022444186
alterparam dut ua = 1.2083258639686344e-09
alterparam dut ub = 6.5469000790522255e-21
alterparam dut uc = 1*-5.657352821920708e-09
alterparam dut voff = 1*-0.13286190692588823
alterparam dut voffcv = 0.3374643309096358
alterparam dut voffl = 1*-6.437093914340528e-09
alterparam dut vsat = 194966.3293142097
alterparam dut vth0 = 0.455307982636866
alterparam dut w0 = 1.4982655384779217e-06
alterparam dut wint = 1.9752143075069373e-08
alterparam dut ww = 1*-8.726464413909907e-14
alterparam dut wwl = 1*-7.186386298385414e-20
alterparam dut xpart = 0.4420882777457983
reset
** Model parameters end

** Declare the vectors to save.
save i(v_s_24_0) i(e_ds_24_0)

** Write the header of the results file.
echo "vds,ciss_24_0" > /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_07_20/simulation_files/ac_point_dc_sweep_6.csv

** Start the simulation loop.
compose values_list start=0.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 1000000.0 1000000.0

    let ciss_24_0 = (abs(imag(i(v_s_24_0))) + abs(imag(i(e_ds_24_0))))/2*pi*1000000.0

    echo "$val,$&ciss_24_0" >> /home/gazi/Desktop/Work/custom_packages/aivalanche/aivalanche_app/src/aivalanche_app/data_store/projects/project_1.gazi.5ce9039e-e488-419b-92e8-c95a713c4994/models/model_1.0e00713a-4f68-42d4-9653-2a40c98c558f/calibration_27_07_2024-00_07_20/simulation_files/ac_point_dc_sweep_6.csv
end

.endc
********** End of control section **********

.end